US05162408
N-Allyl-N,N-dioctadecylamine-N-oxide
Into a cooled solution of 5.0 g (9 mmol) of N-allyl-N,N-dioctadecylamine in 50 ml of chloroform at 0° C. under a nitrogen atmosphere is added dropwise with stirring a solution of 2.82 g (9 mmol) of 55% active m-chloroperbenzoic acid in 25 ml of chloroform. After the addition is complete (approximately 10 minutes), the resultant solution is allowed to warm to ambient temperature (about 22°-24° C.). The reaction is complete after about 2 hours when TLC analysis (silica gel, 19:1 v/v ethyl acetate:methanol) indicates the starting material has completely reacted. The reaction mixture is passed through a short column of basic alumina using chloroform as an eluent to give 5.2 g (quantitative yield) of the title compound as a white solid melting at 59°-64° C.

reactant | N-allyl-N,N-dioctadecylamine | 9 mmol, 5.0 g | C(C=C)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C39H79N
reactant | m-chloroperbenzoic acid | 9 mmol, 2.82 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanol | CO | CH4O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Allyl-N,N-dioctadecylamine-N-oxide | 5.2 g, quantitative yield | C(C=C)[N+](CCCCCCCCCCCCCCCCCC)(CCCCCCCCCCCCCCCCCC)[O-] | C39H79NO
